US04195099
A solution of 251 grams (3.3 moles) of allyl chloride and 372 grams (3 moles) of 4-methyl-3-cyclohexenecarboxaldehyde is added dropwise to a stirred slurry of 77 grams of magnesium (3.2 moles) and 1500 ml of tetrahydrofuran at reflux under nitrogen over a three-hour period. The reaction mixture is heated at reflux (71° C.) for 30 minutes after the feed is complete, whereupon 500 ml of toluene is added. A distillation head is attached to the reaction flask and the tetrahydrofuran is distilled off at atmospheric pressure to a pot temperature of 100° C. The remaining organic solution is cooled to 0° C., whereupon 1000 ml of 18% hydrochloric acid solution is slowly added with external cooling. Two clear layers is formed. The aqueous layer is discarded and the organic layer is quickly distilled. The distillate is fractionally redistilled through a 1.5"×12" Goodloe packed column to afford 325 grams of alpha-allyl-4-methyl-3-cyclohexene methanol (b.p. 92° C., 3.0 mm Hg pressure).

reactant | allyl chloride | 3.3 moles, 251 grams | C(C=C)Cl | C3H5Cl
reactant | 4-methyl-3-cyclohexenecarboxaldehyde | 3 moles, 372 grams | CC1=CCC(CC1)C=O | C8H12O
reactant | magnesium | 3.2 moles, 77 grams | [Mg] | Mg
reactant | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | alpha-allyl-4-methyl-3-cyclohexene methanol | 325 grams | C(C=C)C(O)C1CC=C(CC1)C | C11H18O
